US06441004B1
Ethyl N-(3,4-dichlorobenzyl)-4-(2-pyridyl)indole-2-carboxylate
Ethyl 4-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate (0.15 g), 2-(tri-n-butylstannyl) pyridine (0.155 g), lithium chloride (30 mg) and tetrakis triphenylphosphine-palladium(0) (15 mg) were dissolved in anhydrous degassed toluene under argon and warmed at 105° C. for 16 hours. The reaction was then cooled to room temperature and partitioned between water and dichloromethane. Combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography using i-hexane-30% ethyl acetate as eluent to give the desired end product as a white solid (0.08 g, 54%); M/z (+) 425 (M+).

reactant | Ethyl 4-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 0.15 g | BrC1=C2C=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C18H14BrCl2NO2
reactant | 2-(tri-n-butylstannyl) pyridine | 0.155 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | lithium chloride | 30 mg | [Cl-].[Li+]
catalyst | tetrakis triphenylphosphine palladium(0) | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | Ethyl N-(3,4-dichlorobenzyl)-4-(2-pyridyl)indole-2-carboxylate | 0.08 g, 54% | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)C2=NC=CC=C2)C(=O)OCC)C=CC1Cl | C23H18Cl2N2O2
